US08563723B2
To a solution of 0.30 g 5-Bromo-2,3-dihydro-1H-indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide in 50 mL EtOH was added 0.94 mL of triethylamine. The mixture was degassed thoroughly, and 10 mol % of palladium on carbon was added. The mixture was hydrogenated overnight at a H2 pressure of 1 atm. The mixture was filtered over Hyflo, the Hyflo was washed with EtOH, and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography (DCM→DCM/EA 95:5→DCM/EA 9:1) to give 0.20 g (76%) of 2,3-Dihydro-1H-indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide as a red oil. 1H NMR (400 MHz, CDCl3) δ 0.96 (t, J=7.52 Hz, 3H), 1.14 (t, J=7.22 Hz, 3H), 1.43-1.67 (m, 2H), 3.04 (t, J=8.43 Hz, 3H), 3.42-3.52 (m, 2H), 3.60 (t, J=8.43 Hz, 2H), 3.66 (dd, J=11.44, 7.83 Hz, 1H), 4.06 (t, J=11.29 Hz, 1H), 6.89 (d, J=1.50 Hz, 1H), 7.10-7.15 (m, 2H), 7.24-7.27 (m, 1H). [NH's invisible].

reactant | 5-Bromo-2,3-dihydro-1H-indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide | 0.30 g | C(C)NC(=NS(=O)(=O)C1=C(C=C2CCNC2=C1)Br)N1N=CC(C1)CC | C16H22BrN5O2S
reactant | triethylamine | 0.94 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 50 mL | CCO | C2H6O
product | 2,3-Dihydro-1H-indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide | 0.20 g, 76% | C(C)NC(=NS(=O)(=O)C1=CC=C2CCNC2=C1)N1N=CC(C1)CC | C16H23N5O2S
